US06734302B2
[4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-piperazin-1-yl-methanone (50 mg, 0.088 mmol, example 10 g) was dissolved in anhydrous methanol (10 mL). Glycidol (0.15 mL, 2.26 mmol) was added and the reaction was heated at 40° C. for 20 h. The mixture was cooled to room temperature and concentrated in vacuo. Chromatography of the residue over silica gel using 1-6% methanol in methylene chloride gave [4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-[4-(2,3-dihydroxy-propyl)-piperazin-1-yl]-methanone (25 mg, 44%). HR-MS (ES, m/z) calculated for C33H39N4O5Cl2[(M+H)+]641.2292, observed 641.2300.

reactant | [4,5-Bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-piperazin-1-yl-methanone | 0.088 mmol, 50 mg | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCNCC1)C1=C(C=C(C=C1)OC)OC(C)C | C30H32Cl2N4O3
reactant | Glycidol | 2.26 mmol, 0.15 mL | C1C(O1)CO | C3H6O2
solvent | methanol | 10 mL | CO | CH4O
product | [4,5-bis-(4-chloro-phenyl)-2-(2-isopropoxy-4-methoxy-phenyl)-4,5-dihydro-imidazol-1-yl]-[4-(2,3-dihydroxy-propyl)-piperazin-1-yl]-methanone | 25 mg, 44% | ClC1=CC=C(C=C1)C1N=C(N(C1C1=CC=C(C=C1)Cl)C(=O)N1CCN(CC1)CC(CO)O)C1=C(C=C(C=C1)OC)OC(C)C | C33H38Cl2N4O5
